US04209626
2-Chloro-5-(4-chlorophenyl)pyridine
A mixture of 22.27 g. of 5-(4-chlorophenyl)-2(1H)-pyridinone and 100 ml. of phosphorus oxychloride is refluxed for 16 hours, chilled and poured onto cracked ice. The solid formed is collected by filtration and then is dissolved in chloroform. The chloroform solution is washed with water and with saturated sodium bicarbonate and then is dried over magnesium sulfate. The solvent is evaporated at reduced pressure to yield 21.1 g. of the product of the Example as a gray solid, m.p. 113°-115° C.

reactant | 5-(4-chlorophenyl)-2(1H)-pyridinone | ClC1=CC=C(C=C1)C=1C=CC(NC1)=O | C11H8ClNO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5-(4-chlorophenyl)pyridine | ClC1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C11H7Cl2N
